*********************************************************
* Spice file generated by gnetlist                      *
* spice-SDB version 3.30.2003 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
Cpara2 0 7 0.155pF 
Cpara1 0 9 0.158pF 
L7 1 7 0.407nH 
L1 9 2 0.833nH 
L6 3 0 0.313nH 
L4 0 3 0.386nH 
.INCLUDE /home/sdb/RF_Amp/Simulation.cmd
Cin Vin 9 47pF 
Cout 7 Vout 47pF 
Rc 6 8 50 
Lc 8 7 22nH 
RL 0 Vout 50 
Rth_in Vsource Vin 50 
Vin Vsource 0 dc 0 ac 1
Vpwr 6 0 DC 5V
C1 3 5 4pF 
X2 1 4 5 Q2_MSA26F 
*******************************
* Begin .SUBCKT model         *
* spice-SDB ver 3.30.2003     *
*******************************
.SUBCKT Q2_MSA26F 6 4 5 
Re 5 2 0.443 
Rcx 1 6 1.716 
Rbx 4 3 0.463 
Ceox 5 3 2.417e-14F 
Ccox 4 1 6.598e-14F 
D2 3 2 DIODEM2_Q2 
* This is a diode model used in the Agilent MSA-26 model
* documented in 5980-2496E.pdf.
* Model entered 3.30.2003 by SDB
.model DIODEM2_Q2   D(IS=1e-24 N=1.0029 CJO=9.023e-14 
+  VJ=0.8971 M=2.292e-1 FC=0.8 TNOM=21)
D1 4 1 DIODEM1_Q2 
* This is a diode model used in the Agilent MSA-26 model
* documented in 5980-2496E.pdf.
* Model entered 3.30.2003 by SDB
.model DIODEM1_Q2   D(IS=5.62e-17 N=1 CJO=9.676e-14 
+  VJ=0.729 M=0.44 FC=0.8 TNOM=21)
Q2 1 3 2 BJTM1_Q2 
* This is the BJT model used in the Agilent MSA-26 model
* documented in 5980-2496E.pdf.
* Model entered 3.30.2003 by SDB
.model BJTM1_Q2   NPN(Bf=1e6 IKF=5.895e-1 ISE=2.838e-19 NE=1.006
+  VAF=44 NF=1 TF=5.37e-12 XTF=20 VTF=0.8 ITF=8.872e-1 PTF=22
+  XTB=0.7 BR=1 IKR=4.4e-2 NC=2 VAR=3.37 NR=1.005 TR=4e-9
+  EG=1.17 IS=1.79e-17 XTI=3 TNOM=21 CJC=3.717e-14
+  VJC=0.6775 MJC=0.3319 XCJC=4.398e-1 FC=0.8 CJE=3.217e-13 
+  VJE=0.9907 MJE=0.5063 RB=2.325 IRB=3.272e-4 RBM=2.5e-2 KF=1.026e-24)
.ENDS Q2_MSA26F
*******************************
X1 1 2 4 Q1_MSA26F 
*******************************
* Begin .SUBCKT model         *
* spice-SDB ver 3.30.2003     *
*******************************
.SUBCKT Q1_MSA26F 6 4 5 
Re 5 2 2.158 
Rcx 1 6 6.386 
Rbx 4 3 3.723 
Ceox 5 3 6.01e-15F 
Ccox 4 1 1.851e-14F 
D2 3 2 DIODEM2_Q1 
* This is a diode model used in the Agilent MSA-26 model
* documented in 5980-2496E.pdf.
* Model entered 3.31.2003 by SDB
.model DIODEM2_Q1   D(IS=1e-24 N=1.0029 CJO=2.452e-14 
+  VJ=0.8971 M=0.2292 FC=0.8 TNOM=21)
D1 4 1 DIODEM1_Q1 
* This is a diode model used in the Agilent MSA-26 model
* documented in 5980-2496E.pdf.
* Model entered 3.31.2003 by SDB
.model DIODEM1_Q1   D(IS=1.405e-17 N=1 CJO=2.281e-14 
+  VJ=0.729 M=0.44 FC=0.8 TNOM=21)
Q1 1 3 2 BJTM1_Q1 
* This is the BJT model used in the Agilent MSA-26 model
* documented in 5980-2496E.pdf.
* Model entered 3.31.2003 by SDB
.model BJTM1_Q1   NPN(Bf=1e6 IKF=5.895e-1 ISE=2.838e-19 NE=1.006
+  VAF=44 NF=1 TF=5.37e-12 XTF=20 VTF=0.8 ITF=2.218e-1 PTF=22
+  XTB=0.7 BR=1 IKR=1.1e-2 NC=2 VAR=3.37 NR=1.005 TR=4e-9
+  EG=1.17 IS=4.475e-18 XTI=3 TNOM=21 CJC=2.921e-14
+  VJC=0.6775 MJC=0.3319 XCJC=4.398e-1 FC=0.8 CJE=7.546e-14 
+  VJE=0.9907 MJE=0.5063 RB=9.301 IRB=8.18e-5 RBM=0.1 KF=1.643e-23)
.ENDS Q1_MSA26F
*******************************
R4 3 5 5 
R3 3 4 250 
R2 3 2 660 
R1 2 1 560 
.END
